US05102877
To a methylene chloride solution (50 ml) of 1-allyloxycarbonyl-4-acetyl-2-hydroxymethyl-3-pyrroline (2.5 g) and imidazole (1.51 g) was added tert-butyldimethylsilyl chloride (2.5 g) under ice-cooling. The mixture was then stirred at room temperature for one day, followed by addition of water and ethyl acetate. The aqueous layer was separated and extracted with ethyl acetate twice. The organic layers were combined, washed with 1N hydrochloric acid, saturated aqueous sodium hydrogen carbonate solution, water and aqueous sodium chloride solution, and dried over anhydrous magnesium sulfate. Finally the solvent was distilled off under reduced pressure to give 1-allyloxycarbonyl-4-acetyl-2-tert-butyldimethylsilyloxymethyl-3-pyrroline (1.45 g).

reactant | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
reactant | 1-allyloxycarbonyl-4-acetyl-2-hydroxymethyl-3-pyrroline | 2.5 g | C(C=C)OC(=O)N1C(C=C(C1)C(C)=O)CO | C11H15NO4
reactant | imidazole | 1.51 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilyl chloride | 2.5 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 1-allyloxycarbonyl-4-acetyl-2-tert-butyldimethylsilyloxymethyl-3-pyrroline | 1.45 g | C(C=C)OC(=O)N1C(C=C(C1)C(C)=O)CO[Si](C)(C)C(C)(C)C | C17H29NO4Si
